US04599344
3-[2-(4-Chlorophenyl)ethyl]-1-azabicyclo[2.2.2]octane hydrochloride
Combine 2.0 g (7 mmole) of 3-[2-(4-chlorophenyl)ethylidene]-1-azabicyclo[2.2.2]octane hydrochloride, 40 ml of acetic acid, 0.2 g of 10% Pd/C catalyst and 5 ml of water. Place the mixture in a Parr apparatus and hydrogenate the mixture at ca. 43 p.s.i. Follow the reaction by the uptake of hydrogen. When the theoretical amount of hydrogen has been absorbed stop the reaction. Remove the catalyst by filtration and wash the catalyst with 40 ml of acetic acid. Remove the solvent from the filtrate in vacuo. Recrystallize the residue from 2-propanol to afford the title compound.

reactant | 3-[2-(4-chlorophenyl)ethylidene]-1-azabicyclo[2.2.2]octane hydrochloride | 7 mmole, 2.0 g | Cl.ClC1=CC=C(C=C1)CC=C1CN2CCC1CC2
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.2 g | [Pd] | Pd
solvent | water | 5 ml | O | H2O
product | 3-[2-(4-Chlorophenyl)ethyl]-1-azabicyclo[2.2.2]octane hydrochloride | Cl.ClC1=CC=C(C=C1)CCC1CN2CCC1CC2 | InChI=1S/C15H20ClN.ClH/c16-15-5-2-12(3-6-15)1-4-14-11-17-9-7-13(14)8-10-17;/h2-3,5-6,13-14H,1,4,7-11H2;1H
